US06989386B2
4-Amino-4-deoxypteroic Acid (2)
To a 2 L 3-necked round bottom flask, equipped with a dropping funnel, a thermometer, and a drying tube, were added triphenylphosphine (216 g, 0.83 mol) and anhydrous dimethylacetamide (0.66 L). The resulting clear solution was cooled to 5° C. and bromine (132 g, 0.83 mol) was added over 45 min while maintaining the temperature below 8° C. To the resulting white slurry was added 2,4-diamino-6-hydroxymethyl pteridine (53 g, 0.28 mol). The temperature rose to 35° C. due to exothermic effect. The rust colored slurry slowly dissolved over 1 h to become a dark red solution. The mixture was stirred at ambient temperature overnight (ca. 17 h) forming a dark red slurry. Barium oxide (53 g, 0.35 mol) and 4-aminobenzoic acid (57 g, 0.42 mol) were added in one portion each with vigorous stirring. The temperature rose to 70° C. due to exothermic effect and the mixture turned to a rust-colored slurry within 15 min. The reaction mixture was stirred at 55±2° C. for 24±2 h. The resulting yellow-brown slurry was cooled to 20° C., then poured into a mixture of CH2Cl2 (6.9 L) and MeOH (0.2 L). The solids were isolated by filtration, slurried in H2O (2.5 L), and the mixture was filtered again to isolate the solids. The solids were slurried in MeOH (2.5 L), isolated by filtration, and air-dried at ambient temperature, to give 85 g (99%) of crude product as a brownish-yellow powder, Lot BM-02G-54.

reactant | triphenylphosphine | 0.83 mol, 216 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 0.83 mol, 132 g | BrBr | Br2
reactant | 2,4-diamino-6-hydroxymethyl pteridine | 0.28 mol, 53 g | NC1=NC2=NC=C(N=C2C(=N1)N)CO | C7H8N6O
reactant | Barium oxide | 0.35 mol, 53 g | [O-2].[Ba+2]
reactant | 4-aminobenzoic acid | 0.42 mol, 57 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | H2O | 2.5 L | O | H2O
solvent | MeOH | 2.5 L | CO | CH4O
solvent | MeOH | 0.2 L | CO | CH4O
solvent | CH2Cl2 | 6.9 L | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | 0.66 L | CC(=O)N(C)C | C4H9NO
product | 4-Amino-4-deoxypteroic Acid | 85 g, 99% | C1=CC(=CC=C1C(=O)O)NCC2=CN=C3C(=N2)C(=NC(=N3)N)N | C14H13N7O2
